US04871743
A mixture of 0.71 g (1.05 eq) of guanidine hydrochloride, 0.40 g (1.05 eq) of sodium methoxide, and 20 mL of anhydrous methanol is stirred under nitrogen for 30 minutes. The solid which forms is removed by filtration and the filtrate concentrated under reduced pressure. To the residue (guanidine free base) is added 2.15 g (1.0 eq) of methyl 4-(5-carbethoxy-5-cyanopentyl)benzoate in 20 mL of anhydrous dimethylformamide. This mixture is stirred under nitrogen with gentle heating for 12 hours, cooled, and then mixed with very dilute sulfuric acid. The solid is collected, washed with water and then diethyl ether, and dried to yield methyl 4-[4-(2,4-diamino-6-hydroxypyrimidin-5-yl)butyl]-benzoate, m.p. 203°-205° C.; IR (KBR) vmax 3495, 3380, 2925, 2850, 1685, 1600, 1490, 1430, 1359, 1282, 1174, 1111, 1015, and 754 cm-1 ; 1H NMR (d6DMSO) delta 9.74 (bs, 1H (3)--NH), 7.83 (d, J=8.1 Hz, 2H, Ar), 7.31 (d, J=8.1 Hz, 2H, Ar), 5.87 (bs, 2H (2)--NH2), 5.60 (bs, 2H, (6)--NH2), 3.80 (s, 3H, CH3), 2.62 (t, J=7.6 Hz, 2H, (5)--CH2), 2.15 (t, J=7.2 Hz, 2H, benzyl), 1.51-1.55 (m, 2H, 2° aliphatic), 1.26-1.28 (m, 2H 2° aliphatic).

reactant | guanidine hydrochloride | 0.71 g, 1.05 eq | Cl.NC(=N)N
reactant | sodium methoxide | 0.40 g, 1.05 eq | C[O-].[Na+]
reactant | guanidine | NC(=N)N | CH5N3
reactant | methyl 4-(5-carbethoxy-5-cyanopentyl)benzoate | 2.15 g, 1.0 eq | C(=O)(OCC)C(CCCCC1=CC=C(C(=O)OC)C=C1)C#N | C17H21NO4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | methanol | 20 mL | CO | CH4O
product | methyl 4-[4-(2,4-diamino-6-hydroxypyrimidin-5-yl)butyl]-benzoate | NC1=NC(=C(C(=N1)N)CCCCC1=CC=C(C(=O)OC)C=C1)O | C16H20N4O3
